US04182881
C. N-[Dichlorophosphinyl]-4-phenylbenzamide
A mixture of 23.5 g (0.12 mole) of 4-phenylbenzamide, 24.8 g (0.12 mole) of phosphorus pentachloride and 250 ml of AR carbon tetrachloride was heated at 70° until the HCl gas evolution nearly stops. It was chilled to 30° and 5.7 g (0.12 mole) of 97% formic acid added dropwise. The precipitate was collected, washed with AR carbon tetrachloride and air-dried to give 3.1 g, m.p. 123°-124°.

reactant | 4-phenylbenzamide | 0.12 mole, 23.5 g | C1(=CC=CC=C1)C1=CC=C(C(=O)N)C=C1 | C13H11NO
reactant | phosphorus pentachloride | 0.12 mole, 24.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.12 mole, 5.7 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-4-phenylbenzamide | ClP(=O)(NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)Cl | C13H10Cl2NO2P
